US09382228B2
A mixture of 3-bromo-2-ethyl-6-nitropyridine (2.31 g, 10.0 mmol), 2-chloropyridin-4-ol (2.59 g, 20.0 mmol) and K2CO3 (4.15 g, 30.0 mmol) in DMA (20 mL) was sparged with Ar and heated at 105° C. overnight. The mixture was cooled to RT, treated with EtOAc, washed successively with 10% K2CO3 (1×), 5% LiCl (1×) and brine (1×), dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine (892 mg, 25%). MS (ESI) m/z: 280.1 (M+H+).

reactant | 3-bromo-2-ethyl-6-nitropyridine | 10.0 mmol, 2.31 g | BrC=1C(=NC(=CC1)[N+](=O)[O-])CC | C7H7BrN2O2
reactant | 2-chloropyridin-4-ol | 20.0 mmol, 2.59 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | K2CO3 | 30.0 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine | 892 mg, 25% | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])CC | C12H10ClN3O3
